US07148236B2
m-Chloroperbenzoic acid (70–75% by wt, 2.7 g, 15.6 mmol) was added in portions to a stirred, ambient temperature solution of 6-chloro-5-nitroquinoline (2 g, 9.6 mmol) in CHCl3 (15 mL). The mixture was stirred for 6 h. After this time, more CHCl3 was added, followed by 30 mL of a saturated aqueous solution of Na2CO3 and 1 mL 1M NaOH. The mixture was separated and the aqueous phase extracted with CHCl3 (×2). The organic phases were combined and washed with a saturated aqueous solution of Na2CO3, H2O and brine. The organic phase was dried (MgSO4) and the solvent removed in vacuo to give 6-Chloro-5-nitroquinoline-N-oxide as a yellow solid (1.8 g, 84%); H (300 MHz; CDCl3) 7.6 (1H, m), 7.7 (1H, d), 7.95 (1H, d), 8.65 (1H, d) and 8.75 (1H, d).

reactant | m-Chloroperbenzoic acid | 15.6 mmol, 2.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-chloro-5-nitroquinoline | 9.6 mmol, 2 g | ClC=1C(=C2C=CC=NC2=CC1)[N+](=O)[O-] | C9H5ClN2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 1M, 1 mL | [OH-].[Na+]
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloro-5-nitroquinoline-N-oxide | 1.8 g, 84% | ClC=1C(=C2C=CC=[N+](C2=CC1)[O-])[N+](=O)[O-] | C9H5ClN2O3
